US03963724
a. 1-methyl-2-styryl-2-hydroxy-6-piperidone
The Grignard reagent prepared in 300 ml of THF from 24 g (1.0 mole) of magnesium and 42 g (0.30 mole) of β-bromostyrene is decanted from excess metal and added dropwise under nitrogen to a solution of 27 g (0.21 moles) of N-methyl glutarimide at 3°-5°. After 1 1/2 hrs. at room temperature, the mixture is treated with 250 ml of saturated NH4Cl solution with cooling. The separated aqueous layer is reextracted and the combined THF extracts washed with salt, dried over MgSO4 and freed of solvent. Product is extracted into hot ether and crystallized on cooling to yield white crystals, mp 108°-112°C.

reactant | magnesium | 1.0 mole, 24 g | [Mg] | Mg
reactant | β-bromostyrene | 0.30 mole, 42 g | BrC=CC1=CC=CC=C1 | C8H7Br
reactant | N-methyl glutarimide | 0.21 moles, 27 g | CN1C(CCCC1=O)=O | C6H9NO2
reactant | NH4Cl | 250 ml | [NH4+].[Cl-]
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 1-methyl-2-styryl-2-hydroxy-6-piperidone | CN1C(CCCC1=O)(O)C=CC1=CC=CC=C1 | C14H17NO2
